US04302464
E. 1-(2-amino-4-pyridyl)-1-ethanone oxime
To a solution of 3.1 g. (45 mmoles) of hydroxylamine hydrochloride in 10 ml. of water was added 22.5 ml. of 2 N sodium hyroxide solution. To this solution was added 3.6 g. (26 mmoles) of 1-(2-amino-4-pyridyl)-1-ethanone and the mixture heated to the boiling point for 5 minutes. Methanol was added slowly until the mixture became homogeneous. Heating was continued until a precipitate began to form. The mixture was cooled to 0° C., and the resulting precipitate was filtered, washed with water and dried in vacuo. Recrystallization from ethyl acetate afforded 3.6 g. (92%) of the desired oxime, m.p. 215°-217° C.

reactant | hydroxylamine hydrochloride | 45 mmoles | Cl.NO
reactant | water | O | H2O
reactant | sodium hyroxide | 2 N | [OH-].[Na+]
reactant | 1-(2-amino-4-pyridyl)-1-ethanone | 26 mmoles | NC1=NC=CC(=C1)C(C)=O | C7H8N2O
solvent | Methanol | CO | CH4O
product | 1-(2-amino-4-pyridyl)-1-ethanone oxime | NC1=NC=CC(=C1)C(C)=NO | C7H9N3O
